US04831013
To a suspension of 50% sodium hydride in oil (300 mg) in dry dmethylformamide (16 ml) is added 3-(2-aminopyrazin-3-yl)-5-(2-furyl)-1,2,4-triazole (1.37 g) and the whole stirred under nitrogen at 60° until a solution forms. To this is added cyanogen bromide (700 mg) in dimethylformamide (9 ml) and the whole stirred under nitrogen over 66 hours at 60°. It is cooled to 0° and the solid collected, washed with dimethylformamide, then water, then ethanol and finally ether and air dried. It is recrystallized from dimethylacetamide (70 ml) to which methanol (50 ml) is added to form pure 5-amino-(2-furyl)-pyrazino[2,3-e][1,2,4]-triazolo[1,5-c]pyrimidine, melting in the range 347°-351°.

reactant | sodium hydride | [H-].[Na+]
reactant | 3-(2-aminopyrazin-3-yl)-5-(2-furyl)-1,2,4-triazole | 1.37 g | NC1=NC=CN=C1C1=NNC(=N1)C=1OC=CC1 | C10H8N6O
reactant | cyanogen bromide | 700 mg | N#CBr | CBrN
solvent | dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
product | 5-amino-(2-furyl)-pyrazino[2,3-e][1,2,4]-triazolo[1,5-c]pyrimidine | NC1=NC2=C(C=3N1N=C(N3)C=3OC=CC3)N=CC=N2 | C11H7N7O
